US08431563B2
The 1,1,1,3,3,3-hexafluoro-2-(4-((2R)-2-(((3S)-3-methyl-4-morpholinyl)methyl)-1-piperazinyl)phenyl)-2-propanol trifluoroacetate (115 mg, 0.172 mmol) was dissolved in CH2Cl2 (30 mL) and was chilled to 0° C. To this solution was triethylamine (96 μl, 0.687 mmol) followed by 6-chloropyridine-3-sulfonyl chloride (40.1 mg, 0.189 mmol, Organic Process Research & Development 2009, 13, 875). The mixture was warmed slowly to room temp and stirred for 2 h. Afterwards, the mixture was concentrated to give 2-(4-((S)-4-((6-chloropyridin-3-yl)sulfonyl)-2-(((R)-3-methylmorpholino)methyl)piperazin-1-yl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol.

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-((2R)-2-(((3S)-3-methyl-4-morpholinyl)methyl)-1-piperazinyl)phenyl)-2-propanol trifluoroacetate | 0.172 mmol, 115 mg | FC(C(=O)O)(F)F.FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1[C@H](CNCC1)CN1[C@H](COCC1)C)(F)F
reactant | triethylamine | 0.687 mmol, 96 μl | C(C)N(CC)CC | C6H15N
reactant | 6-chloropyridine-3-sulfonyl chloride | 0.189 mmol, 40.1 mg | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-((S)-4-((6-chloropyridin-3-yl)sulfonyl)-2-(((R)-3-methylmorpholino)methyl)piperazin-1-yl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | ClC1=CC=C(C=N1)S(=O)(=O)N1C[C@@H](N(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CN1[C@@H](COCC1)C | C24H27ClF6N4O4S
